US06395734B1
3-[5-(5-Chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid
3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole (220 mg), 147 mg 5-chloro-2-oxindole, and 2 drops of piperidine in 2 mL of ethanol were heated to 90° C. for 3 hours. The reaction mixture was cooled and concentrated. The residue was suspended in 6 N of aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven to give 172 mg of the title compound (50%) as a brown solid.

reactant | 3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole | 220 mg | C(=O)(O)CCC1=C(NC(=C1C)C=O)C | C10H13NO3
reactant | 5-chloro-2-oxindole | 147 mg | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[5-(5-Chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid | 172 mg, 50% | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C(=C(N1)C)CCC(=O)O)C | C18H17ClN2O3
